Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1]/[C:2](=[C:3]\[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17]>>[C:2](#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17].[H:1],1.67693480666
[H:8].[O:1][O:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:9]/[C:10]([H:11])([H:12])[H:13]>>[O:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9][C:10]([H:11])([H:12])[H:13],-1.7665831101099998
[H:1][C:2]#[C:3]/[C:4]([H:5])=[C:6](\[H:7])[O:8][O:9][H:10]>>[C:4]([H:5])=[C:6]([H:7])[O:8][O:9][H:10].[H:1][C:2]#[C:3],6.3893990478
[C:6]([H:7])([O:8][H:9])[C:10]([H:11])([H:12])[H:13].[O:1]=[C:2]=[C:3]([H:4])[H:5]>>[O:1]=[C:2]([C:3]([H:4])[H:5])[C@:6]([H:7])([O:8][H:9])[C:10]([H:11])([H:12])[H:13],-1.30542850316
[H:1][C:2]=[C:3]([O:4][H:5])[C:6](=[C:7][H:8])[C:9]([H:10])([H:11])[H:12]>>[C:2]=[C:3]([O:4][H:5])[C:6](=[C:7][H:8])[C:9]([H:10])([H:11])[H:12].[H:1],4.35872424801
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]#[C:8][H:9]>>[C:8][H:9].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7],10.617538834400001
[H:1][C:2]([H:3])/[C:4]([H:5])=[C:6](\[H:7])[O:8][C:9]([H:10])([H:11])[H:12]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C:6][O:8][C:9]([H:10])([H:11])[H:12].[H:7],4.13508841964
[O:1]=[C:2]([C:3]([H:4])[C:5]([H:6])=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:9].[O:1]=[C:2]([C:3]([H:4])[C:5]([H:6])=[C:7][H:8])[C:10]([H:11])([H:12])[H:13],4.89547979659
[H:1][C:2]([H:3])=[C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])=[C:11]=[O:12]>>[H:1][C:2]([H:3])=[C:4]([C:5]([H:6])([H:7])[H:8])[C@:9]1([H:10])[C:11][O:12]1,2.69935645839
[O:1][O:2]/[C:3]([C:4]([H:5])[H:6])=[C:7](/[H:8])[C:9]([H:10])([H:11])[H:12]>>[C:4]([H:5])[H:6].[O:1][O:2][C:3][C:7]([H:8])[C:9]([H:10])([H:11])[H:12],5.13940440646
[H:1][O:2]/[C:3]=[C:4](\[H:5])[C@@:6]([H:7])([O:8][H:9])[C:10]([H:11])[H:12]>>[C:3]=[C:4]([H:5])[C@:6]([H:7])([O:8][H:9])[C:10]([H:11])[H:12].[H:1][O:2],5.18529334814
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[C@:8]([H:9])([O:10][H:11])[C:12]([H:13])([H:14])[H:15]>>[C:12]([H:13])([H:14])[H:15].[H:1][O:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8](\[H:9])[O:10][H:11],1.3502681151299998
[O:1]=[C:2]([H:3])[C:4]([H:5])[O:6][C:7][H:8]>>[C:2]([H:3])=[C:4]([H:5])[O:6][C:7][H:8].[O:1],5.80437866212
[C:1]#[C:2][C:3]([H:4])[O:5][C:6]([H:7])=[C:8]([H:9])[H:10]>>[C:1]#[C:2][C:3]([H:4])=[O:5].[C:6]([H:7])=[C:8]([H:9])[H:10],3.49830503272
[H:1][C:2][C:3]([H:4])([H:5])[C:6][C:7]([H:8])([H:9])[C:10][C:11]([H:12])([H:13])[H:14]>>[H:1][C:2](=[C:3][C:7]([H:8])([H:9])[C:10][C:11]([H:12])([H:13])[H:14])[H:5].[H:4][C:6],1.6256372412600002
[H:1][C:2]#[C:3][O:4][C:5]([H:6])[O:8][H:9].[H:7]>>[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[O:8][H:9],-4.12900935077
[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])[O:9][H:10]>>[C:4]([H:5])([H:6])=[C:7]([H:8])[O:9][H:10].[H:1][O:2][C:3],0.66694784
[C:10]([H:11])([H:12])=[C:13][C:14]([H:15])([H:16])[H:17].[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[H:9]>>[H:1][C:2]([H:3])[C@@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13][C:14]([H:15])([H:16])[H:17],1.4495265088799998
[C:1].[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8](=[O:9])[H:10]>>[C:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8](=[O:9])[H:10],-5.56712971393
[C:9]([H:10])([H:11])[H:12].[H:1][C:2][O:3][C:4]([H:5])=[C:6]([H:7])[H:8]>>[H:1][C:2]([O:3][C:4]([H:5])=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-3.72749742823
[C:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8](\[H:9])[C:10][O:11][H:12].[H:1]>>[H:1][C:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8](\[H:9])[C:10][O:11][H:12],-3.85468285557
[H:11].[H:1][C:2]=[C:3]([H:4])[C:5]#[C:6][O:7][C:8]([H:9])[H:10]>>[H:1][C:2]=[C:3]([H:4])[C:5]#[C:6][O:7][C:8]([H:9])([H:10])[H:11],-4.48600862791
[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[H:12]>>[H:1][C:2][O:4][C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[H:12].[H:3],3.71155277739
[H:1][O:2]/[C:3]([C:4]([H:5])[H:6])=[C:7](/[O:8][H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][O:2]/[C:3]([C:4][H:5])=[C:7](/[O:8][H:9])[C:10]([H:11])([H:12])[H:13].[H:6],4.15855538939
[H:1][O:2][C:3]#[C:4][C:5]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:4]=[C:5]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[H:1][O:2][C:3],5.06297177721
[H:1][C:2]#[C:3][O:4][C:5]([H:6])[C:7]([H:8])=[C:9]([H:10])[H:11]>>[C:7]([H:8])=[C:9]([H:10])[H:11].[H:1][C:2]#[C:3][O:4][C:5][H:6],5.0654937995800005
[C:13]([H:14])([H:15])[H:16].[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][O:2]/[C:3](=[C:4](/[H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-4.35410473447
[H:1][C:2]#[C:3][H:4].[O:5][O:6][C:7]([H:8])([H:9])[H:10]>>[H:1][C:2]=[C:3]([H:4])[O:5][O:6][C:7]([H:8])([H:9])[H:10],-0.32646619703
[O:1]=[C:2]/[C:3]([H:4])=[C:5](\[O:6][H:7])[C:8]([H:9])([H:10])[H:11]>>[H:7].[O:1]=[C:2]=[C:3]([H:4])[C:5](=[O:6])[C:8]([H:9])([H:10])[H:11],1.4772525186899998
